### PR TITLE
[Merged by Bors] - feat(lint-style): rewrite focusing dot check in Lean

### PR DESCRIPTION
**Pull request by grunweg**
as a syntax linter, extending `adomani`'s `cdot` syntax linter.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by adomani** [comment]
Thanks for this!

How about extending the `cdot` linter, though?  Here is a sample of how to do that:
```lean
import Mathlib.Tactic.Linter

open Lean in

elab "line_breaks? " cmd:command : command => do
  Elab.Command.elabCommand cmd
  for cdot in Mathlib.Linter.findCDot cmd do
    match cdot.find? (·.isOfKind `token.«· ») with
      | some (.node _ _ #[.atom (.original _ _ afterCDot _) _]) =>
        if afterCDot.contains '\n' && afterCDot.trimLeft.isEmpty then
          logWarningAt cdot m!"Found an isolated `·`!"
      | _ => return

line_breaks?
--inspect
example : True ∧ True := by
  constructor
--v this `·` is flagged
  ·
    exact .intro
  · -- if I write a long comment here
    -- there is no warning
    exact .intro
```

**Comment by grunweg** [comment]
@adomani Good idea, that is even nicer. I just adapted the linter accordingly; it should be ready for review again.

File: Mathlib/Tactic/Linter/Lint.lean [hunk 1]
```diff
@@ -159,12 +159,14 @@ end MissingEnd
 The `cdot` linter is a syntax-linter that flags uses of the "cdot" `·` that are achieved
 by typing a character different from `·`.
 For instance, a "plain" dot `.` is allowed syntax, but is flagged by the linter.
+It also flags "isolated cdots", i.e. when the `⬝` is on its own line.
```
Comment (joneugster) [inline Mathlib/Tactic/Linter/Lint.lean:162]:
```suggestion
It also flags "isolated cdots", i.e. when the `·` is on its own line.
```
I believe you used `⬝` (`\cdot`) instead of  `·` (`\.` or `\centerdot`). Maybe the `"cdot"` above is confusing and should be adjusted...

File: Mathlib/Tactic/Linter/Lint.lean [hunk 2]
```diff
@@ -159,12 +159,14 @@ end MissingEnd
...
 -/
 
 /--
 The `cdot` linter flags uses of the "cdot" `·` that are achieved by typing a character
 different from `·`.
-For instance, a "plain" dot `.` is allowed syntax, but is flagged by the linter. -/
+For instance, a "plain" dot `.` is allowed syntax, but is flagged by the linter.
+It also flags "isolated cdots", i.e. when the `⬝` is on its own line. -/
```
Comment (joneugster) [inline Mathlib/Tactic/Linter/Lint.lean:169]:
```suggestion
It also flags "isolated cdots", i.e. when the `·` is on its own line. -/
```

**Review by joneugster — COMMENTED** [review]
I think this is ready to be merged, but I think it make sense to add a dependency on #15845, merge that first, and then make sure this linter is imported in `Mathlib.Init`

File: test/Lint.lean [hunk 3]
```diff
@@ -210,24 +276,6 @@ example : ℕ → ℕ := set_option linter.style.lambdaSyntax true in λ _ ↦ 0
 
 end lambdaSyntaxLinter
 
-set_option linter.globalAttributeIn false in
```
Comment (grunweg) [inline test/Lint.lean:213]: This fixes a merge error: the same test is already present on line 158.

File: test/Lint.lean [hunk 4]
```diff
@@ -89,6 +91,70 @@ note: this linter can be disabled with `set_option linter.cdot false`
...
+
+#guard_msgs in
+set_option linter.cdot true in
+example : True := by
+  have : Nat := by
+    -- This is how code should look: no error.
+    · -- comment
+      exact 37
+  trivial
+
```
Comment (adomani) [inline test/Lint.lean:155]:
```suggestion
```
Is this just a git merge gone wrong and it is simply a repetition of the tests above it?

Comment (grunweg) [reply test/Lint.lean:124]: That was a merge error - thanks for spotting!

**Review by adomani — APPROVED** [review]
Thanks!

As I was involved in writing part of the code, I'll just approve of these changes, but it looks good!

File: test/Lint.lean (hunk 3 above)
Comment (joneugster) [reply test/Lint.lean:213]: Indeed, although its [line 127 on the resulting file](https://github.com/leanprover-community/mathlib4/blob/3c4d23a560483d82fe8ad39580429fcfb3bc5936/test/Lint.lean#L127-L143).

**Comment by joneugster** [comment]
Thanks!

maintainer merge

**Review by Vierkantor — APPROVED** [review]
bors merge

**Comment by jcommelin** [comment]
bors merge
